US04178449
Ethyl 7-(3,4-dimethoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
A mixture of 2.35 g. of 3-dimethylamino-3',4'-dimethyoxyacrylophenone and ethyl 3-aminopyrazole-4-carboxylate in 25 ml. of glacial acetic acid is refluxed for 20 hours and worked up to give the product, m.p. 148°-149° C.

reactant | 3-dimethylamino-3',4'-dimethyoxyacrylophenone | CN(C=CC(=O)C1=CC(=C(C=C1)OC)OC)C | C13H17NO3
reactant | ethyl 3-aminopyrazole-4-carboxylate | NC1=NNC=C1C(=O)OCC | C6H9N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 7-(3,4-dimethoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | COC=1C=C(C=CC1OC)C1=CC=NC=2N1N=CC2C(=O)OCC | C17H17N3O4
